US04214094
To 2.9 g of ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate are added 10 ml of formaldehyde and 20 ml of formic acid to prepare a solution, which is stirred at room temperature for 30 minutes and then at 50° C. for 1 hour. The formaldehyde and formic acid are distilled off from the reaction mixture under reduced pressure, and ethanol is added to the residue. After filtering off the insolubles from the resulting solution, the ethanol is distilled off from the filtrate. The resulting oily residue is dissolved in ether, washed with water and dried. The ether is distilled off from the dried solution to given an oily residue (2.8 g), which is purified by silica gel column chromatography, using chloroform as an eluent to give 2.3 g of ethyl 2-[4-{N-(4-chlorophenyl)-N-methylaminomethyl}phenoxy]-2-methylpropionate, an oily product.

reactant | ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate | 2.9 g | ClC1=CC=C(NCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=C1 | C19H22ClNO3
reactant | formaldehyde | 10 ml | C=O | CH2O
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | ethyl 2-[4-{N-(4-chlorophenyl)-N-methylaminomethyl}phenoxy]-2-methylpropionate | 2.3 g | ClC1=CC=C(C=C1)N(C)CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C20H24ClNO3
